US04871865
(a) (E)/(Z)-3-(3-Bromo-10,11-dihydrodibenzo[a,d]cyclohepten-5-ylidene)-N,N-dimethylpropylamine
Anhydrous 3-(dimethylamino)propyltriphenylphosphonium bromide hydrobromide (21 g., 40.8 mmole) was suspended in 400 ml. of dry tetrahydrofuran and n-butyl lithium in hexane (82 mmole) was added dropwise at 0° C. under a nitrogen atmosphere during a period of 0.5 hour. After an additional 10 minutes, 9.0 g. (31.3 mmole) of 3-bromo-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one, prepared as described in C. A. Stone, J. M. Stavorski, H. C. Wenger and C. T. Ludden, J. Med. Chem. (1965) 8, 829, in 100 ml. dry tetrahydrofuran was added slowly to the deep red solution and the reaction was then refluxed for 18 hours. The solution was poured into ice-water and the mixture was extracted with diethyl ether. Evaporation of the ether under reduced pressure gave an oily residue which was suspended in water and the mixture was then acidified with 6N hydrochloric acid. The acidic aqueous solution was washed with hexanes, and then concentrated under reduced pressure. The residue was chromatographed on a silica gel Prep 500 column with methanol to provide an E/Z (1:1) stereoisomeric mixture of bromoamines. Recrystallization of the isomeric mixture from methanol gave 0.5 g. of the pure E-isomer as its hydrochloric salt, m.p. 239°-240° C. The residue from the mother liquor was chromatographed on a reverse phase C18 semi-preparative column with 70% methanol in water (containing 0.1% triethylamine). The appropriate fractions were pooled and recrystallized from methanol/water to yield 1.13 g. of the Z-isomer (with the presence of 5% E-isomer) as the free base, m.p. 73°-75° C. Also, the fractions containing the E-isomer were pooled, evaporated and recrystallized from methanol/ethyl acetate to give 0.70 g. of the E-isomer as the free base. From other fractions 3.5 g. of E/Z (1:1) isomeric mixture was collected which could be used either for further separation or for carboxylation in the next step. pmr (E-isomer, free base) (CDCl3) δ: 7.43 (d, J=1.9 Hz, 1H, H4), 7.12-7.26 (m, 5H, aromatic), 6.89 (d, J=8.3 Hz, 1H, H1), 5.88 (t, J=7.3 Hz, 1H, CH=), 3.30 (m, 2H, CH2Ar), 2.84 (m, 2H, CH2Ar), 2.28-2.38 (m, 4H, NCH2CH2), 2.16 (s, 6H, NMe2). pmr (≥95% stereoisomeric pure Z-isomer, free base) (CDCl3) δ: 7.00-7.33 (m, 7H, aromatic), 5.86 (t, J=7.3 Hz, 1H, CH=), 3.30 (m, 2H, CH2Ar), 2.90 (m, 1H, CHAr), 2.70 (m, 1H, CHAr), 2.26-2.37 (m, 4H, NCH2CH2), 2.18 (s, 6H, NMe2).

reactant | 3-(dimethylamino)propyltriphenylphosphonium bromide hydrobromide | 40.8 mmole, 21 g | Br.[Br-].CN(CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 82 mmole | CCCCCC | C6H14
reactant | 3-bromo-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | 31.3 mmole | BrC=1C=CC2=C(C(C3=C(CC2)C=CC=C3)=O)C1 | C15H11BrO
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (Z)-3-(3-Bromo-10,11-dihydrodibenzo[a,d]cyclohepten-5-ylidene)-N,N-dimethylpropylamine | BrC=1C=CC2=C(\C(\C3=C(CC2)C=CC=C3)=C/CCN(C)C)C1 | C20H22BrN
